US06083961
To a stirred solution of 2-amino-3-(4-methoxybenzyloxy)-aniline (1.15 g) in acetic acid (12 ml) was added triethyl orthopropionate (994 mg) at ambient temperature, and the mixture was stirred overnight. The reaction mixture was concentrated in vacuo, and the residue was extracted with dichloromethane. The organic layer was washed with saturated sodium bicarbonate solution and brine, dried over magnesium sulfate and evaporated in vacuo to give 2-ethyl-4-(4-methoxybenzyloxy)-1H-benzimidazole (900 mg) as pale yellow powder.

reactant | 2-amino-3-(4-methoxybenzyloxy)-aniline | 1.15 g | NC1=C(N)C=CC=C1OCC1=CC=C(C=C1)OC | C14H16N2O2
reactant | triethyl orthopropionate | 994 mg | C(CC)(OCC)(OCC)OCC | C9H20O3
solvent | acetic acid | 12 ml | C(C)(=O)O | C2H4O2
product | 2-ethyl-4-(4-methoxybenzyloxy)-1H-benzimidazole | 900 mg | C(C)C1=NC2=C(N1)C=CC=C2OCC2=CC=C(C=C2)OC | C17H18N2O2
